US04656305
1-[4-(Prop-2-enyloxy)-2-carboxyethoxyphenyl]-3-(3-carboxyphenyl)-prop-2-en-1-one
6.30 g. of the above diacid were slurried with 12.60 ml. methanol and a solution of 1.30 g. sodium hydroxide in 25.80 ml. water added dropwise thereto. with occasional warming, to give a solution with a pH of 7.0. This solution was filtered and poured, while stirring vigorously, into 300 ml. analytically pure acetone at ambient temperature. The precipitated solid was filtered off, well washed with acetone and dried to constant weight in a vacuum oven at 80° C. The yield was 6.24 g. A thin layer chromatogram, using the above-mentioned elution agent, indicated the material to be of better than 99% purity. The disodium salt thus obtained had a melting point of >300° C. and the infra-red spectrum had major bands at 1645 (sh., enone), 1605 (broad, CO2Na), 1500 (aromatic) and 1255 (ether cm-1. A 10% aqueous solution had a pH of 6.50. The NMR spectrum (D2O) confirmed the structure of the disodium salt of 1-[4-(prop-2-enyloxy)-2-carboxymethoxyphenyl]-3-(3-carboxyphenyl)-prop-2-en-1-one.

reactant | disodium | [Na][Na] | 2Na
reactant | 1-[4-(prop-2-enyloxy)-2-carboxymethoxyphenyl]-3-(3-carboxyphenyl)-prop-2-en-1-one | C(C=C)OC1=CC(=C(C=C1)C(C=CC1=CC(=CC=C1)C(=O)O)=O)OCC(=O)O | C21H18O7
solvent | ether | CCOCC | C4H10O
product | 1-[4-(Prop-2-enyloxy)-2-carboxyethoxyphenyl]-3-(3-carboxyphenyl)-prop-2-en-1-one | C(C=C)OC1=CC(=C(C=C1)C(C=CC1=CC(=CC=C1)C(=O)O)=O)OCCC(=O)O | C22H20O7
